US05314790
A. Preparation of 3-chloropropyl pentyl sulfide.
A suspension of sodium hydride (4.0 g, 100 mmole) in dry tetrahydrofuran (350 mL) under a nitrogen atmosphere was cooled in an ice bath. Pentyl mercaptan (10.8 g, 100 mmole) was added dropwise over 10 minutes. The resulting suspension of sodium alkylmercaptide was added in portions over 30 minutes to a stirred solution of 1-chloro-3-iodopropane (20.44 g, 100 mmole) in tetrahydrofuran (450 mL) that had been cooled to -78° C. The mixture was allowed to warm to ambient temperature overnight, then washed with brine, dried over MgSO4, and concentrated under vacuum. The resultant oil was distilled under water aspirator pressure to yield the desired product (10.67 g, 59% yield), b.p. 113°-119° C. (20 mm Hg).

reactant | sodium hydride | 100 mmole, 4.0 g | [H-].[Na+]
reactant | Pentyl mercaptan | 100 mmole, 10.8 g | C(CCCC)S | C5H12S
reactant | sodium | [Na] | Na
reactant | 1-chloro-3-iodopropane | 100 mmole, 20.44 g | ClCCCI | C3H6ClI
solvent | tetrahydrofuran | 350 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 450 mL | O1CCCC1 | C4H8O
product | 3-chloropropyl pentyl sulfide | 10.67 g, 59% yield | C(CCCC)SCCCCl | C8H17ClS
